US08912188B2
To a solution of methyl 2-(1-benzofuran-3-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate (80 mg, 0.21 mmol) in methanol (40 mL) and water (1 mL) was added sodium hydroxide (33 mg, 0.83 mmol) with stirring overnight at room temperature. The resulting mixture was concentrated under vacuum, dissolved in water (50 ml) adjusted to pH 6 with HCl (3N), and collected by filtration to give 2-(1-benzofuran-3-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylic acid as a yellow solid (60.1 mg, 78%).

reactant | methyl 2-(1-benzofuran-3-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate | 0.21 mmol, 80 mg | O1C=C(C2=C1C=CC=C2)C2=NC1=CC=C(C=C1N=C2N2[C@H](CCC2)C)C(=O)OC | C23H21N3O3
reactant | sodium hydroxide | 0.83 mmol, 33 mg | [OH-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 2-(1-benzofuran-3-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylic acid | 60.1 mg, 78% | O1C=C(C2=C1C=CC=C2)C2=NC1=CC=C(C=C1N=C2N2[C@H](CCC2)C)C(=O)O | C22H19N3O3
